US07582629B2
2-(2-Methoxyethyl)-5-phenyl-4-(5,6,7,8-tetrahydronaphthalen-1-ylamino)isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 5,6,7,8-tetrahydronaphthalen-1-amine in a similar manner as described for e.g. Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 7.37 (bs, 1H), 7.20-7.15 (m, 1H), 7.11-7.01 (m, 4H), 6.75 (d, 1H), 6.70 (t, 1H), 6.63-6.60 (m, 1H), 3.90 (t, 2H), 3.72 (t, 2H), 3.38 (s, 3H), 2.60-2.54 (m, 4H), 1.76-1.69 (m, 2H), 1.66-1.59 (m, 2H); Mass Spectrum: M+H+ 413.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 5,6,7,8-tetrahydronaphthalen-1-amine | C1(=CC=CC=2CCCCC12)N | C10H13N
product | 2-(2-Methoxyethyl)-5-phenyl-4-(5,6,7,8-tetrahydronaphthalen-1-ylamino)isothiazol-3(2H)-one 1,1-dioxide | COCCN1S(C(=C(C1=O)NC1=CC=CC=2CCCCC12)C1=CC=CC=C1)(=O)=O | C22H24N2O4S
